US08217064B2
2-(3-Cyclopropylmethoxy-4-nitro-phenyl)-4-methyl-pentanoic acid cyclopropylmethyl ester (34.0 g, 94.2 mmol) was dissolved in AcOH (300 mL) and water (20 mL). Then, Zn powder (60.0 g, 923 mmol) was added in portions. The reaction mixture was refluxed for 1 h and after cooling the precipitate was filtered. The solvent was evaporated and water (150 mL) was added. The reaction mixture was extracted with EtOAc (3×100 mL) and the combined organic phases were washed with water (3×100 mL) and brine (100 mL). Drying of the organic phase was performed with magnesium sulfate. The evaporation of the solvent gave crude product as a brown oil, which was purified by silica gel gradient column chromatography by use of Heptane-EtOAc to give 2-(4-amino-3-cyclopropylmethoxy-phenyl)-4-methyl-pentanoic acid cyclopropylmethyl ester as a yellow oil (23 g, 75%). 1H NMR (300 MHz, CDCl3/TMS): δ 6.73-6.61 (m, 3H), 3.94-3.78 (m, 6H), 3.53 (t, J=7.7 Hz, 1H), 1.94-1.85 (m, 1H), 1.65-1.56 (m, 1H), 1.52-1.43 (m, 1H), 1.28-1.18 (m, 1H), 1.11-1.03 (m, 1H), 0.90 (d, J=6.6 Hz, 6H), 0.64-0.58 (m, 2H), 0.53-0.47 (m, 2H), 0.36-0.33 (m, 2H), 0.24-0.21 (m, 2H); 13C NMR (75 MHz, CDCl3/TMS): δ 174.6, 146.4, 135.3, 129.3, 120.5, 114.6, 111.2, 73.1, 69.0, 49.2, 42.7, 25.8, 22.6, 22.4, 10.4, 9.8, 3.2.

reactant | 2-(3-Cyclopropylmethoxy-4-nitro-phenyl)-4-methyl-pentanoic acid cyclopropylmethyl ester | 94.2 mmol, 34.0 g | C1(CC1)COC(C(CC(C)C)C1=CC(=C(C=C1)[N+](=O)[O-])OCC1CC1)=O | C20H27NO5
solvent | AcOH | 300 mL | CC(=O)O | C2H4O2
solvent | water | 20 mL | O | H2O
catalyst | Zn | 923 mmol, 60.0 g | [Zn] | Zn
product | 2-(4-amino-3-cyclopropylmethoxy-phenyl)-4-methyl-pentanoic acid cyclopropylmethyl ester | 23 g, 75% | C1(CC1)COC(C(CC(C)C)C1=CC(=C(C=C1)N)OCC1CC1)=O | C20H29NO3
